US07335660B2
To a solution of 6-fluoro-3,4-dihydro-1-naphthalenyl trifluoromethane sulfonate (0.77 g, 2.8 mmol) in dioxan (15 mL) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (0.95 g, 4.2 mmol) and the reaction mixture heated under reflux for 18 h. The solvent was removed in vacuo and the crude product purified by column chromatography on silica, eluting with hexane, to yield 6-fluoro-1-naphthyl trifluoromethanesulfonate as a white solid.

reactant | 6-fluoro-3,4-dihydro-1-naphthalenyl trifluoromethane sulfonate | 2.8 mmol, 0.77 g | FC(S(=O)(=O)OC1=CCCC2=CC(=CC=C12)F)(F)F | C11H8F4O3S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 4.2 mmol, 0.95 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxan | 15 mL | O1CCOCC1 | C4H8O2
product | 6-fluoro-1-naphthyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=CC2=CC(=CC=C12)F)(F)F | C11H6F4O3S
